US04242519
Methyl α-methylthio[5-(α,α-dimethoxybenzyl)-2-thienyl]acetate (1.162 g) was dissolved in 6 ml of anhydrous dimethyl sulfoxide, and 150 mg (65% content) of sodium hydride was added. The mixture was stirred at room temperature for 30 minutes. Methyl iodide (0.30 ml) was added, and the mixture was stirred at room temperature for 15 minutes. An aqueous solution of ammonium chloride (0.5 g/30 ml) was added, and the mixture was extracted three times with 20 ml of diethyl ether. The extract was washed twice with 10 ml of water, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was chromatographed on a column of Florisil using benzene as an eluent to afford 932 mg of methyl α-methylthio-α-[5-(α,α-dimethoxybenzyl)-2-thienyl]propionate in a yield of 77% as colorless crystals.

reactant | Methyl α-methylthio[5-(α,α-dimethoxybenzyl)-2-thienyl]acetate | 1.162 g | CSC(C(=O)OC)C=1SC(=CC1)C(C1=CC=CC=C1)(OC)OC | C17H20O4S2
reactant | sodium hydride | 150 mg | [H-].[Na+]
reactant | Methyl iodide | 0.30 ml | CI | CH3I
reactant | ammonium chloride | 30 ml, 0.5 g | [Cl-].[NH4+]
solvent | dimethyl sulfoxide | 6 ml | CS(=O)C | C2H6OS
product | methyl α-methylthio-α-[5-(α,α-dimethoxybenzyl)-2-thienyl]propionate | 932 mg, yield of 77% | CSC(C(=O)OC)(C)C=1SC(=CC1)C(C1=CC=CC=C1)(OC)OC | C18H22O4S2
